US04354973
8-Chloro-6-(2-chlorophenyl)-3-(hydroxymethyl)-1-methyl-2H,4H-pyrrolo[3,4-d][2]benzazepine
In one portion 0.2 g (5.2 mmol) of sodium borohydride was added to 0.9 g of 8-chloro-6-(2-chlorophenyl)-2H,4H-pyrrolo[3,4-d][2]benzazepine-3-carboxaldehyde in 20 ml of methanol which was cooled to 0°. After stirring at 0° for 30 min, water was added and the resulting precipitate was collected by filtration to give a tan amorphous solid (mp 170°-180° dec.). All attempts to purify this product led to the introduction of impurities by decomposition.

reactant | sodium borohydride | 5.2 mmol, 0.2 g | [BH4-].[Na+]
reactant | 8-chloro-6-(2-chlorophenyl)-2H,4H-pyrrolo[3,4-d][2]benzazepine-3-carboxaldehyde | 0.9 g | ClC1=CC2=C(C=3C(CN=C2C2=C(C=CC=C2)Cl)=C(NC3)C=O)C=C1 | C19H12Cl2N2O
reactant | water | O | H2O
reactant | methanol | 20 ml | CO | CH4O
product | 8-Chloro-6-(2-chlorophenyl)-3-(hydroxymethyl)-1-methyl-2H,4H-pyrrolo[3,4-d][2]benzazepine | ClC1=CC2=C(C=3C(CN=C2C2=C(C=CC=C2)Cl)=C(NC3C)CO)C=C1 | C20H16Cl2N2O
